US05698554
By treating [4-(acetylamino)butyl]benzene and crotonoyl chloride in the same manner as in Example 79-(1), 4-[4-(acetylamino)butyl]-1-(2-butenoyl)benzene was obtained.

reactant | [4-(acetylamino)butyl]benzene | C(C)(=O)NCCCCC1=CC=CC=C1 | C12H17NO
reactant | crotonoyl chloride | C(\C=C\C)(=O)Cl | C4H5ClO
product | 4-[4-(acetylamino)butyl]-1-(2-butenoyl)benzene | C(C)(=O)NCCCCC1=CC=C(C=C1)C(C=CC)=O | C16H21NO2
